US07728025B2
(Step 2) Production of (4-(4-fluoro-phenoxy)-6-(pyridin-3-yloxy)-1H-benzimidazol-2-yl)-hydrazine
1.0 ml of hydrazine monohydrate was added to 130 mg of 4-(4-fluoro-phenoxy)-6-(pyridin-3-yloxy)-1H-benzimidazole-2-thiol, and the reaction liquid was stirred overnight at 130° C. The reaction liquid was diluted with ethyl acetate, washed with water and saturated saline in order, and dried with anhydrous magnesium sulfate. The solvent was evaporated away under reduced pressure, and the resulting residue was purified through partitioning thin-layer chromatography (Kieselgel™ 60F254, Art 5744 (by Merck), hexane/ethyl acetate=1/1) to obtain the entitled compound.

reactant | hydrazine monohydrate | 1.0 ml | O.NN
reactant | 4-(4-fluoro-phenoxy)-6-(pyridin-3-yloxy)-1H-benzimidazole-2-thiol | 130 mg | FC1=CC=C(OC2=CC(=CC=3NC(=NC32)S)OC=3C=NC=CC3)C=C1 | C18H12FN3O2S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (4-(4-fluoro-phenoxy)-6-(pyridin-3-yloxy)-1H-benzimidazol-2-yl)-hydrazine | FC1=CC=C(OC2=CC(=CC=3NC(=NC32)NN)OC=3C=NC=CC3)C=C1 | C18H14FN5O2
